US07375113B2
4-Bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole
A mixture of 4-bromo-1H-indazol-3-ol (1.27 g), potassium carbonate (1.65 g) and 2,3,4,6-tetra-O-pivaloyl-α-D-gluco-pyranosyl bromide (which can be prepared in a manner described in literature, for example, Liebigs Ann. Chem. 1982, pp. 41-48; J. Org. Chem. 1996, vol.61, pp. 9541-9545) (4.15 g) in acetonitrile (20 mL) was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over an hydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1-2/1) to give the title compound (2.04 g).

reactant | 4-bromo-1H-indazol-3-ol | 1.27 g | BrC1=C2C(=NNC2=CC=C1)O | C7H5BrN2O
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-gluco-pyranosyl bromide | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-Bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 2.04 g | BrC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C33H47BrN2O10
